US05677322
To a methanol solution of sodium methoxide prepared by dissolving 2.30 g of metal sodium in 150 ml of methanol was added 5.70 g of benzylideneaminoguanidine, and, after stirring the mixture for one hour at room temperature, 11.35 g of iminodiacetic acid diethyl ester was added thereto, followed by refluxing under heating for 17 hours. After cooling the reaction mixture, water and chloroform were added thereto to distribute the mixture between aqueous and organic layers and, then, the aqueous layer was extracted three times with chloroform. The organic layer was combined with the extract. After drying over anhydrous magnesium sulfate, the mixture was concentrated under reduced pressure, and the residue was charged on silica gel column chromatography, followed by elution with a mixed solvent of chloroform and methanol (100:1 (v/v)). Thus 2.61 g of 2-benzylidenehydrazono-1-methoxycarbonylmethylimidazolidin-4-one was obtained.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | benzylideneaminoguanidine | 5.70 g | C(C1=CC=CC=C1)=NNC(=N)N | C8H10N4
reactant | iminodiacetic acid diethyl ester | 11.35 g | C(C)OC(CNCC(=O)OCC)=O | C8H15NO4
solvent | methanol | 150 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-benzylidenehydrazono-1-methoxycarbonylmethylimidazolidin-4-one | 2.61 g | C(C1=CC=CC=C1)=NN=C1N(CC(N1)=O)CC(=O)OC | C13H14N4O3
